US07176216B2
N-(2-Ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine hydrochloride
To a solution of tert-butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylcarbamate (17.5 g, 50 mmol) dissolved in 1,2-dimethoxyethane (175 mL) was added a 4N hydrochloric acid-ethyl acetate solution (175 mL), and the reaction mixture was stirred for 3 hours at 45° C. The solvent was then evaporated under reduced pressure, 1,2-dimethoxyethane (175 mL) and hexane (175 mL) were added to the residue, the mixture was cooled on ice and the precipitate was collected by filtration to afford 11.8 g of the title compound (87% yield).

reactant | tert-butyl N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylcarbamate | 50 mmol, 17.5 g | C(C)C1=NN2C(C=CC=C2)=C1N(C(OC(C)(C)C)=O)CC1CCOCC1 | C20H29N3O3
reactant | hydrochloric acid ethyl acetate | 4N, 175 mL | Cl.C(C)(=O)OCC
solvent | 1,2-dimethoxyethane | 175 mL | COCCOC | C4H10O2
product | N-(2-Ethylpyrazolo[1,5-a]pyridin-3-yl)-N-tetrahydro-2H-4-pyranylmethylamine hydrochloride | 11.8 g, 87% yield | Cl.C(C)C1=NN2C(C=CC=C2)=C1NCC1CCOCC1 | InChI=1S/C15H21N3O.ClH/c1-2-13-15(14-5-3-4-8-18(14)17-13)16-11-12-6-9-19-10-7-12;/h3-5,8,12,16H,2,6-7,9-11H2,1H3;1H
